* L2/P1-C vertex + 3 open stubs, DRIVEN AT A STUB END
*
* SCX Phase-1 external-solver cross-check. CLASS: IMPLEMENTATION-VERIFICATION.
* Prereg (FROZEN): research/2026-08-25_solver-crosscheck-phase1_prereg-FROZEN.md
* GO gate: _orchestration/docket-entries/2026-08-24-ruling-r56-scx-trades.md (R56)
* Emitted by: src/ave/solvers/scx_spice_export.py
*
* SECTOR: MODE numerical-infrastructure / REGIME I cold sub-yield lossless-reactive
*         (A=0, S(A)=1, Op14 off) / PHASE-STATE cold crystalline quiescent /
*         CHANNEL scalar-translational ONLY / CARRIER srs-z3.
*
* CANONICAL SOURCE: src/ave/core/constants.py (resolved and asserted by assert_canonical_source())
*
* IMPORTED SYMBOLS (nothing below is typed; every value enters by import):
*   Z_0                      = 376.73031346177066  ohm     [ave.core.constants]
*   OMEGA_C                  = 7.76344071105011e+20  rad/s   [ave.core.constants]
*   ANALYTIC_NETWORK_FACTOR  = 0.5773502691896258          [ave.core.chiral_lattice_dynamics]
*   L_CELL                   = 4.85262047439289e-19  H       [ave.core.constants]
*   C_CELL                   = 3.41912668394556e-24  F       [ave.core.constants]
*
* DELAY CONVENTION EMITTED: R2   (R56 item 2 pins R2 for the exporter;
*   the corpus's physics-level R1-vs-R2 flag, srs-band-structure.md:157
*   'Flagged for adjudication', STAYS OPEN -- this label is an engineering
*   convention on the emitted netlist, NOT a physics adjudication.)
*   R2  TD = ANALYTIC_NETWORK_FACTOR/OMEGA_C = 7.436783388682972e-22 s
*   R1  TD = ell_node/c_0                    = 1.2880886674083153e-21 s
*   III TD = sqrt(3)*ell_node/c_0            = 2.231035016604891e-21 s
*   EMITTED TD                               = 7.436783388682972e-22 s
*
* UNITS SCALING: SI   (T6; the observables are dimensionless ratios,
*   so this cannot move a verdict -- it is a conditioning/readability choice.)
*
* GRAPH: 4 nodes, 3 bonds, drive at n1
*
I_drv 0 n1 AC 1
T0 n0 0 n1 0 Z0=376.73031346177066 TD=7.436783388682972e-22
T1 n0 0 n2 0 Z0=376.73031346177066 TD=7.436783388682972e-22
T2 n0 0 n3 0 Z0=376.73031346177066 TD=7.436783388682972e-22
.control
set numdgt=17
set filetype=ascii
set wr_singlescale
ac lin 20001 6.723336876543721e+17 7.059503720370907e+20
wrdata L2s_coarse_n1.dat v(n1)
.endc
.end
